US07691364B2
2-(6-Hydroxynaphthalen-2-yl)propionic acid (5)
A mixture of Naproxen (500 g, 2.774 mmol) and 48% HBr (1500 ml) was refluxed for 10 hours, poured onto ice water (3000 ml) and stirred for 30 minutes. Crude 5 was filtered, dried (380 grams, 81%) and used as such for next stage.

reactant | Naproxen | 2.774 mmol, 500 g | C[C@@H](C=1C=CC=2C=C(C=CC2C1)OC)C(=O)O | C14H14O3
solvent | HBr | 1500 ml | Br | BrH
product | 2-(6-Hydroxynaphthalen-2-yl)propionic acid | OC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C13H12O3
